US04260816
p-{[2-(2-Naphthyloxy)ethyl]amino}benzoic acid
A mixture of 3.0 g. of ethyl p-{[2-(2-naphthyloxy)ethyl]amino}benzoate, and 3.0 g. of potassium hydroxide in 200 ml. of ethanol-water (95:5) is refluxed for 3 hours. The mixture is diluted with 100 ml. of water and brought to pH 6.0 with concentrated hydrochloric acid. The mixture is filtered and the solid washed with 50 ml. of water and 20 ml. of cold ethanol-water (4:1) to give the product, m.p. 208°-211° C.

reactant | ethyl p-{[2-(2-naphthyloxy)ethyl]amino}benzoate | C1=C(C=CC2=CC=CC=C12)OCCNC1=CC=C(C(=O)OCC)C=C1 | C21H21NO3
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethanol water | C(C)O.O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | p-{[2-(2-Naphthyloxy)ethyl]amino}benzoic acid | C1=C(C=CC2=CC=CC=C12)OCCNC1=CC=C(C(=O)O)C=C1 | C19H17NO3
